US08629157B2
Synthesis of (S)-1-(4-Chloro-phenyl)-pyrrolidine-2-carboxylic acid [3-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-amide
To a suspension of (S)-1-(4-Chloro-phenyl)-pyrrolidine-2-carboxylic acid {3-[1,1-dimethyl-2-(tetrahydro-pyran-2-yloxy)-ethyl]-isoxazol-5-yl}-amide (130 mg, 0.29 mmol) in the mixture of methanol in water (10:1, 3 mL) is added p-toluenesulfonic acid monohydrate (10 mg, 0.053 mmol) and acetonitrile (1 mL). The reaction mixture is stirred at room temperature for 18 hours. After this time, the reaction mixture is concentrated in vacuo. Purification by flash chromatography on silica gel using ethyl acetate/hexanes provides the title compound, ESI m/z 364 [M+H+].

reactant | (S)-1-(4-Chloro-phenyl)-pyrrolidine-2-carboxylic acid {3-[1,1-dimethyl-2-(tetrahydro-pyran-2-yloxy)-ethyl]-isoxazol-5-yl}-amide | 0.29 mmol, 130 mg | CC(COC1OCCCC1)(C)C1=NOC(=C1)NC(=O)[C@H]1N(CCC1)C1=CC=C(C=C1)Cl | C23H30ClN3O4
reactant | methanol | CO | CH4O
reactant | p-toluenesulfonic acid monohydrate | 0.053 mmol, 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | water | 3 mL | O | H2O
product | (S)-1-(4-Chloro-phenyl)-pyrrolidine-2-carboxylic acid [3-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-amide | OCC(C)(C)C1=NOC(=C1)NC(=O)[C@H]1N(CCC1)C1=CC=C(C=C1)Cl | C18H22ClN3O3
